US06316482B1
To a solution of 2-(4-pyridyl)-1H-benzimidazole-4-carboxylic acid (155 mg) in dichloromethane (2 ml) was added oxalyl chloride (0.056 ml) and N,N-dimethylformamide (2 drops) and stirred at ambient temperature for 2 hours. The reaction mixture was concentrated in vacuo to give 2-(4-pyridyl)-1H-benzimidazole-4-carbonyl chloride. To a solution of 4-amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (76.8 mg) and triethylamine (65 mg) in dichloromethane (5 mL) was added 2-(4-pyridyl)-1H-benzimidazole-4-carbonyl chloride in dichloromethane (2 ml) under ice bath cooling and stirred at ambient temperature for 6 hours. After the reaction mixture was concentrated in vacuo, the residue was diluted with chloroform and saturated sodium hydrogen carbonate aqueous solution. The organic layer was separated and washed with brine. The solution was dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel (Chromatorex, Fuji Silysia Chemical Ltd.) column chromatography (methanol:chloroform=1:49). To the purified product was added water and 1N hydrochloric acid (0.51 ml). The solution was lyophilized to give 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]-4-[2-(4-pyridyl)-1H-benzimidazol-4-yl]carbonylaminobenzamide trichloride (120 mg).

reactant | 2-(4-pyridyl)-1H-benzimidazole-4-carboxylic acid | 155 mg | N1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2C(=O)O | C13H9N3O2
reactant | oxalyl chloride | 0.056 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 2-(4-pyridyl)-1H-benzimidazole-4-carbonyl chloride | N1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2C(=O)Cl | C13H8ClN3O
